US06353025B1
To a solution of 2′-chloro-4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide (1.4 g) and 3,4-dihydro-2H-pyran (1.4 ml) in dichloromethane (15 ml) was added pyridinium p-toluenesulfonate (14 mg), and the mixture was heated under reflux for 1 hour with stirring. After concentration of the reaction mixture in vacuo, the residue was dissolved in ethyl acetate. The solution was washed with a saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/diethyl ether=3/1) gave 2′-chloro-4′-[2-((RS) -tetrahydropyran-2-yloxy)ethyl]-2,2,2-trifluoroacetanilide (1.4 g).

reactant | 2′-chloro-4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide | 1.4 g | ClC1=C(NC(C(F)(F)F)=O)C=CC(=C1)CCO | C10H9ClF3NO2
reactant | 3,4-dihydro-2H-pyran | 1.4 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 14 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′-chloro-4′-[2-((RS) -tetrahydropyran-2-yloxy)ethyl]-2,2,2-trifluoroacetanilide | 1.4 g | ClC1=C(NC(C(F)(F)F)=O)C=CC(=C1)CCOC1OCCCC1 | C15H17ClF3NO3
